US04198425
3-Hydroxy-3-methyl-4-bromo-7-(p-benzyloxy-phenyl)-5-heptanolide
The carboxylic acid (22.4 g) prepared by hydrolyzing 29.6 g of ethyl 3-hydroxy-3-methyl-7-(p-benzyloxyphenyl)-4-heptenoate with 80 ml of 4N sodium hydroxide solution in 500 ml of methanol, was treated with 9.73 g of bromine in an aqueous sodium hydrogen carbonate solution and the reaction mixture was worked up according to the method described in Example 1 (b). The product was recrystallized from a mixture of n-hexane and acetone (10:1) to yield 13.5 g of the desired compound melting at 155°-160° C.

reactant | ethyl 3-hydroxy-3-methyl-7-(p-benzyloxyphenyl)-4-heptenoate | 29.6 g | OC(CC(=O)OCC)(C=CCCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C23H28O4
reactant | sodium hydroxide | 4N, 80 ml | [OH-].[Na+]
reactant | bromine | 9.73 g | BrBr | Br2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 3-Hydroxy-3-methyl-4-bromo-7-(p-benzyloxy-phenyl)-5-heptanolide | 13.5 g | OC1(CC(=O)OC(C1Br)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C21H23BrO4
